US07812341B2
(Synthesis of 1,3-bis[2-(2-phenylpyridin-6-yl)-1,3,4-oxadiazol-5-yl]benzene (hereinafter referred to as PhpyOXDm) (11))
5.0 g of 2-phenyl-6-(2H-tetrazol-5-yl)pyridine was dissolved in 125 ml of dehydrated pyridine. Temperature was elevated to 120° C., and 75 ml was dehydrated by azeotropy. After cooling to 50° C., 2.28 g of isophthaloyl dichloride was added. Temperature was elevated to 100° C., and stirring was conducted for 1 hour. After cooling to room temperature, the reaction solution was poured into 300 ml water, and after adjusting pH to 12 with 20% sodium hydroxide aqueous solution, stirring was conducted for 1 hour. A precipitated brown solid was taken out by suction filtration, and washed with water. The solid obtained was vacuum dried at 70° C. for 20 hours, and purified with column chromatography (carrier: NH silica gel, eluting solution: chloroform) to obtain 4.27 g (yield 73%) of PhpyOXDm. The product was identified with NMR analysis. The result of NMR analysis (CDCl3) was as follows. 9.07 ppm (1H), 8.46 ppm (2H), 8.28 ppm (2H), 8.17 ppm (4H), 7.92-8.15 ppm (4H), 7.78 ppm (1H), 7.46-7.55 ppm (6H).

reactant | 2-phenyl-6-(2H-tetrazol-5-yl)pyridine | 5.0 g | C1(=CC=CC=C1)C1=NC(=CC=C1)C=1N=NNN1 | C12H9N5
reactant | isophthaloyl dichloride | 2.28 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | water | 300 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-bis[2-(2-phenylpyridin-6-yl)-1,3,4-oxadiazol-5-yl]benzene | yield 73% | C1(=CC=CC=C1)C1=NC(=CC=C1)C=1OC(=NN1)C1=CC(=CC=C1)C1=NN=C(O1)C1=CC=CC(=N1)C1=CC=CC=C1 | C32H20N6O2
